US07399759B2
2-{2-[4-(4-Fluorophenyl)-1-piperazinyl]-4-pyridyl}-4H-1,3-benzothiazine-4-one
Methyl thiosalicylate (0.70 g, 4.2 mmol) and 2-[4-(4-fluorophenyl)-1-piperazinyl]isonicotinonitrile (0.69 g, 2.4 mmol) were dissolved in toluene (2.0 ml), and triethylamine (0.71 ml, 5.1 mmol) was added thereto. The reaction mixture was refluxed for 17 hrs and the precipitated crystals were collected by filtration. The filtrate was concentrated, subjected to a silica gel (50 g) column chromatography, eluted with hexane-ethyl acetate (2:1, v/v) to give crystals, which were combined with the previously obtained crystals and recrystallized from acetone-ethanol to give the titled compound (0.18 g, 17%) as white crystals.

reactant | Methyl thiosalicylate | 4.2 mmol, 0.70 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-[4-(4-fluorophenyl)-1-piperazinyl]isonicotinonitrile | 2.4 mmol, 0.69 g | FC1=CC=C(C=C1)N1CCN(CC1)C=1C=C(C#N)C=CN1 | C16H15FN4
reactant | triethylamine | 5.1 mmol, 0.71 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{2-[4-(4-Fluorophenyl)-1-piperazinyl]-4-pyridyl}-4H-1,3-benzothiazine-4-one | 0.18 g, 17% | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C23H19FN4OS
